US07662811B2
To a solution of (R)-2-methyl-CBS-oxazaborolidine (1M solution in toluene, 0.56 mL, 0.56 mmol) in 15 mL of toluene at −10° C. was added BH3.SMe2 (1.27 mL, 13.38 mmol). To this stirred solution was then added 2-(2,2,2-trifluoroacetyl)-1,2,3,4,8,9-hexahydrobenzo[g]-isoquinolin-6(7H)-one(3.31 g, 11.15 mmol)in 5 mL of dry THF dropwise while keeping the temperature around −10° C. After stirring at room temperature for 2 h, the reaction mixture was cooled down to −10° C. and was quenched with 6 mL of MeOH and was then evaporated to dryness and directly submitted to flash chomatography (SiO2, hexane/EtOAc=3:1 to 2:1 to 1:1) to afford (S)-2,2,2-trifluoro-1-(6-hydroxy-3,4,6,7,8,9-hexahydrobenzo[g]isoquinolin-2(1H)-yl)ethanone as a white solid.

reactant | (R)-2-methyl-CBS-oxazaborolidine | 0.56 mmol, 1M, 0.56 mL | B1(N2CCC[C@@H]2C(O1)(C3=CC=CC=C3)C4=CC=CC=C4)C | C18H20BNO
reactant | SMe2 | 13.38 mmol, 1.27 mL | S(C)C | C2H6S
reactant | 2-(2,2,2-trifluoroacetyl)-1,2,3,4,8,9-hexahydrobenzo[g]-isoquinolin-6(7H)-one | 11.15 mmol, 3.31 g | FC(C(=O)N1CC2=CC3=C(C=C2CC1)C(CCC3)=O)(F)F | C15H14F3NO2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-2,2,2-trifluoro-1-(6-hydroxy-3,4,6,7,8,9-hexahydrobenzo[g]isoquinolin-2(1H)-yl)ethanone | FC(C(=O)N1CC2=CC3=C(C=C2CC1)[C@H](CCC3)O)(F)F | C15H16F3NO2
